US08957083B2
Synthesis of 2-(2-bromo-5-methoxyphenyl)acetic acid
To a solution of 2-(3-methoxyphenyl)acetic acid (4.50 g, 27.1 mmol) in DCM (25 ml), was added bromine (1.40 ml, 27.1 mmol) dropwise at 0° C. (ice-water bath). The mixture was stirred overnight at RT and quenched by addition of 5% sodium thiosulfate solution. The organic layer was washed with brine, dried with MgSO4 and concentrated under a stream of nitrogen to give the titled compound, 2-(2-bromo-5-methoxyphenyl)acetic acid as white crystalline solid.

reactant | 2-(3-methoxyphenyl)acetic acid | 27.1 mmol, 4.50 g | COC=1C=C(C=CC1)CC(=O)O | C9H10O3
reactant | bromine | 27.1 mmol, 1.40 ml | BrBr | Br2
solvent | DCM | 25 ml | C(Cl)Cl | CH2Cl2
product | 2-(2-bromo-5-methoxyphenyl)acetic acid | BrC1=C(C=C(C=C1)OC)CC(=O)O | C9H9BrO3
